US05707933
(c) Preparation of 2-chloro-6-cyano-4-methylpyridine
To a solution of 20.7 g of 2-bromo-6-chloro-4-methylpyridine in 100 ml anhydrous N,N-dimethylformamide 9.9 g of copper cyanide was added. The reaction mixture was heated to reflux for 7 hours. After cooling, the mixture was filtered through a silica gel column with 500 ml ethyl acetate. The obtained solution was washed with a saturated aqueous solution of sodium chloride. The solvent was removed in vacuo and the residue purified by silica gel column chromatography using hexane/ethyl acetate. 1:1. 7.6 g (54%) of the title compound was obtained as a white solid of melting point 133° C.

reactant | 2-bromo-6-chloro-4-methylpyridine | 20.7 g | BrC1=NC(=CC(=C1)C)Cl | C6H5BrClN
reactant | copper cyanide | [Cu](C#N)C#N
solvent | N,N-dimethylformamide | 100 ml, 9.9 g | CN(C=O)C | C3H7NO
product | 2-chloro-6-cyano-4-methylpyridine | 7.6 g, 54% | ClC1=NC(=CC(=C1)C)C#N | C7H5ClN2
